US05972965
To a solution of ethyl [3-[[2-(4,5-diphenyloxazol-2-yl)tetrahydrofuran-3-yl]methyl]phenoxy]acetate (560 mg) in ethanol (20 ml) was added 1N-NaOH solution (1.2 ml). After being stirred for 4 hours at the same temperature, the solvent was removed in vacuo to give sodium [3-[[2-(4,5-diphenyloxazol-2-yl)tetrahydrofuran-3-yl]methyl]phenoxy]-acetate (0.46 g) FABMS (m/z): 478 (M+ +1) IR (Nujol): 3400, 1600 cm-1NMR (DMSO-d6, δ): 1.6-3.0 (5H, m), 3.8-4.2 (4H, m), 4.68 (1/3H, d, J=7.0 Hz), 5.13 (2/3H, d, J=8.0 Hz), 6.6-6.8 (3H, m), 7.0 (1H, t, J=8 Hz), 7.2-7.8 (10H, m)

reactant | ethyl [3-[[2-(4,5-diphenyloxazol-2-yl)tetrahydrofuran-3-yl]methyl]phenoxy]acetate | 560 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1OCCC1CC=1C=C(OCC(=O)OCC)C=CC1 | C30H29NO5
reactant | NaOH | 1.2 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | sodium [3-[[2-(4,5-diphenyloxazol-2-yl)tetrahydrofuran-3-yl]methyl]phenoxy]-acetate | 0.46 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1OCCC1CC=1C=C(OCC(=O)[O-])C=CC1.[Na+] | InChI=1S/C28H25NO5.Na/c30-24(31)18-33-23-13-7-8-19(17-23)16-22-14-15-32-27(22)28-29-25(20-9-3-1-4-10-20)26(34-28)21-11-5-2-6-12-21;/h1-13,17,22,27H,14-16,18H2,(H,30,31);/q;+1/p-1
